US07659279B2
2-[(2R)-2-({[4-[3-Chloro-4-fluoroanilino]-7-(2-hydroxyethoxy)quinazolin-5-yl]oxy}methyl)pyrrolidin-1-yl]-2-oxoethanol
2-Bromoethanol (51 μl) and potassium carbonate (86 mg) were added to a mixture of 4-[3-chloro-4-fluoroanilino]-5-{[(2R)-1-glycoloylpyrrolidin-2-yl]methoxy}-quinazolin-7-ol (70 mg) in DMF and the reaction mixture was heated at 70° C. for 16 hours. The reaction mixture was cooled to room temperature and then water (5 ml) was added to leave a white precipitate. The precipitate was filtered, washed with water and then purified by column chromatography using 2-5% methanol in DCM as eluent. The product was purified further by acidic reverse phase HPLC, and then the combined fractions were reduced to a third of the initial concentration, basified with sodium carbonate and extracted with ethyl acetate. The organic layer was dried (Na2SO4) and concentrated in vacuo to give the title compound as a white solid (35 mg, 45%); NMR Spectrum (DMSO-d6 at 373 K) 9.80 (br s, 1H), 8.40 (s, 1H), 8.15 (m, 1H), 7.65 (m, 1M, 7.33 (m, 1H), 6.80 (m, 2H), 4.60 (m, 1H), 4.50 (m, 1H), 4.30-4.10 (m, 4H), 4.0 (m, 2H), 3.75 (m, 2H), 3.60 (m, 1H), 3.50-3.37 (m, 2H), 2.10-1.85 (m, 4H); Mass spectrum MH+ 491.

reactant | 2-Bromoethanol | 51 μl | BrCCO | C2H5BrO
reactant | potassium carbonate | 86 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[3-chloro-4-fluoroanilino]-5-{[(2R)-1-glycoloylpyrrolidin-2-yl]methoxy}-quinazolin-7-ol | 70 mg | ClC=1C=C(NC2=NC=NC3=CC(=CC(=C23)OC[C@@H]2N(CCC2)C(CO)=O)O)C=CC1F | C21H20ClFN4O4
reactant | water | 5 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[(2R)-2-({[4-[3-Chloro-4-fluoroanilino]-7-(2-hydroxyethoxy)quinazolin-5-yl]oxy}methyl)pyrrolidin-1-yl]-2-oxoethanol | 35 mg, 45% | ClC=1C=C(NC2=NC=NC3=CC(=CC(=C23)OC[C@@H]2N(CCC2)C(CO)=O)OCCO)C=CC1F | C23H24ClFN4O5
